US08080568B1
Preparation of diphenyl (6-methylpyridin-2-yl)(phenylamino)methylphosphonate (a compound of the formula (III) wherein Ra═CH3)
A mixture of 6-methylpyridine-2-carboxaldehyde (2.12 g, 17.50 mmol), aniline (1.63 g, 17.50 mmol), diphenyl phosphite (4.92 g, 21.00 mmol), and zirconyl chloride octahydrate (0.56 g, 1.75 mmol) was stirred at room temperature 1 h. The reaction mixture was extracted with CH2Cl2 (3×50 mL), and the CH2Cl2 solution was washed with water (2×20 mL), dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give the titled compound (6.96 g, 92%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.51 (t, 1H, J=7.8 Hz), 7.38 (dd, 1H, J=7.6, 2.0 Hz), 7.27-7.22 (m, 4H), 7.19-7.15 (m, 2H), 7.14-7.07 (m, 4H), 7.05-7.02 (m, 3H), 6.80-6.74 (m, 3H), 5.53 (pseudo t, 1H, J=7.4 Hz), 5.36 (dd, 1H, J=21.0, 8.2 Hz), 2.54 (s, 3H).

reactant | 6-methylpyridine-2-carboxaldehyde | 17.50 mmol, 2.12 g | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | aniline | 17.50 mmol, 1.63 g | NC1=CC=CC=C1 | C6H7N
reactant | diphenyl phosphite | 21.00 mmol, 4.92 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)[O-]
reactant | chloride octahydrate | 1.75 mmol, 0.56 g | O.O.O.O.O.O.O.O.[Cl-]
product | diphenyl (6-methylpyridin-2-yl)(phenylamino)methylphosphonate | 6.96 g, 92% | CC1=CC=CC(=N1)C(NC1=CC=CC=C1)P(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C25H23N2O3P
